Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain; abscess
 
Major Surgical or Invasive Procedure:
___: CT-guided placement of an ___ pigtail catheter 
into abdominal abscess

 
History of Present Illness:
Per resident: ___ presents ~4 weeks s/p lap appendectomy for 
perforated appendicitis (___) with RLQ abdominal pain. 
Post-op course complicated by a-flutter with RVR (now on 
diltiazem). She completed 10-day course of cipro/flagyl post-op. 
Patient was doing well at home until 1.5 weeks ago when she 
developed abdominal pain for which she took Tylenol around the 
clock. As it remained persistent, she presented to outpatient 
surgery clinic today where CT was obtained. She was sent home on 
empiric antibiotics while awaiting results of CT, which 
ultimately showed a RLQ abscess extending up to the subhepatic 
space. She was called into the ___ for admission for ___ drainage, 
for which she is transferred to ___ from the ___. 

Patient currently feels fine aside from the abdominal pain. She 
had a low grade temp earlier. Appetite hasn't quite returned to 
baseline but had been tolerating POs at home. Reports no change 
in bowel function. 

 
Past Medical History:
perforated appendicitis, a-flutter, morbid obesity,
depression, asthma, mitral valve regurgitation

PSH: lap appendectomy (Dr. ___, ___, lap RNYGB (Dr.
___, wrist surgery

 
Social History:
___
Family History:
Parents COPD/emphysema (smokers)

 
Physical Exam:
Per resident exam:
Vital Signs:see flowsheet
Gen: [x] NAD, [] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, [] rebound/guarding
Wound: [x] incisions clean, dry, intact
Ext: x[] warm, [] tender, [] edema

 
Pertinent Results:
___ 06:48AM BLOOD WBC-9.9 RBC-3.45* Hgb-9.6* Hct-30.8* 
MCV-89 MCH-27.8 MCHC-31.2* RDW-13.4 RDWSD-44.4 Plt ___ 
___ PTT-27.7 ___ Glucose-88 UreaN-4* Creat-0.6 
Na-143 K-3.9 Cl-101 HCO3-26 AnGap-16
Calcium-8.7 Phos-3.6 Mg-1.9

___ 09:39PM BLOOD Neuts-72.9* Lymphs-15.4* Monos-10.2 
Eos-0.7* Baso-0.1 Im ___ AbsNeut-7.48* AbsLymp-1.58 
AbsMono-1.05* AbsEos-0.07 AbsBaso-0.01 Glucose-90 UreaN-5* 
Creat-0.5 Na-141 K-3.9 Cl-102 HCO3-25 AnGap-14

___ 09:49PM BLOOD Lactate-1.0

IMAGE CATH FLUID ___ Study Date of ___ 11:25 AM 
Successful CT-guided placement of an ___ pigtail catheter 
into the 
collection. Samples were sent for microbiology evaluation. 

 
Brief Hospital Course:
Ms. ___ is a ___ who underwent a laparoscopic appendectomy 
on ___ and presented to clinic with abdominal pain. 
 An abdominal CT scan revealed a multiloculated right sided 
intra-abdominal abscess for which the patient was admitted and 
underwent drainage via CT guided placement of an ___ pigtail 
catheter on HD2; she received intravenous metronidazole and 
ciprofloxacin.  

Post-procedure, the patient remained afebrile and 
hemodynamically stable.  Pain was managed with intravenous 
hydromorphone and transitioned to oral oxycodone upon discharge. 
 On HD3, the antibiotics were transitioned from intravenous to 
oral metronidazole and ciprofloxacin. Given ongoing hemodynamic 
stability, the patient was discharged to home with the drain in 
place.  Visiting nursing services were coordinated for drain 
care and the patient will continue oral antibiotics until 
follow-up with Dr. ___ in clinic in one week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO BID 
2. FLUoxetine 40 mg PO DAILY 
3. TraZODone 75 mg PO QHS 
4. cyanocobalamin (vitamin B-12) 1,000 mcg sublingual DAILY 
5. iron 18 mg oral DAILY 
6. Ciprofloxacin HCl 500 mg PO Q12H 
7. MetroNIDAZOLE 500 mg PO TID 
8. Diltiazem Extended-Release 180 mg PO DAILY 
9. BuPROPion 200 mg PO DAILY 
10. Magnesium Oxide Dose is Unknown  PO DAILY 
11. Albuterol Inhaler ___ PUFF IH ASDIR 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*10 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
4.  Magnesium Oxide 000 mg PO DAILY  
5.  Albuterol Inhaler ___ PUFF IH ASDIR  
6.  BuPROPion 200 mg PO DAILY  
7.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0 
8.  cyanocobalamin (vitamin B-12) 1,000 mcg sublingual DAILY  
9.  Diltiazem Extended-Release 180 mg PO DAILY  
10.  Ferrous Sulfate 18 mg oral DAILY  
11.  FLUoxetine 60 mg PO DAILY  
12.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
13.  Multivitamins W/minerals 1 TAB PO BID  
14.  TraZODone 75 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Intra-abdominal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to an intra-abdominal 
abscess for which an drain was placed.  You are now preparing 
for discharge with the following instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

General Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently. Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 
Followup Instructions:
___